US08809584B2
Preparation of Parent Compound N-phenethylcyclohexanesulfonamide
To a stirred solution of 2-phenylethylamine (0.60 g, 4.97 mmol) in 45 ml CH2Cl2 at room temperature was added Et3N (0.83 ml, 5.97 mmol). The mixture was stirred for 5 min, and then cyclohexanesulfonyl chloride (1.0 g, 5.47 mmol) was added at this temperature.

reactant | 2-phenylethylamine | 4.97 mmol, 0.60 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | Et3N | 5.97 mmol, 0.83 ml | CCN(CC)CC | C6H15N
reactant | cyclohexanesulfonyl chloride | 5.47 mmol, 1.0 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
product | N-phenethylcyclohexanesulfonamide | C(CC1=CC=CC=C1)NS(=O)(=O)C1CCCCC1 | C14H21NO2S
